* C:\Users\lucca\Desktop\TP_Final_TC1\2_1.asc
* Generated by LTspice 26.0.1 for Windows.
V1 N001 0 PULSE(0 10 0 1p 1p 100u 200u 10)
C1 a N003 47n
L1 N003 b 1m Rser=1m
R2 a 0 8.2
R3 b P001 6.8
R4 N003 N002 50
R5 N002 N001 50
R1 P001 0 14
.tran 500u
.backanno
.end
